US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(4-propan-2-yl-1,4-diazepan-1-yl)thiophene-2-carboxamide
Trimethylaluminium (0.751 ml, 1.50 mmol) was added dropwise to a stirred suspension of 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (148 mg, 0.60 mmol) and ethyl 5-(4-propan-2-yl-1,4-diazepan-1-yl)thiophene-2-carboxylate (178 mg, 0.60 mmol) in toluene (3.002 ml) at 25° C. The resulting solution was stirred at 60° C. for 18 h. The cooled reaction mixture was added to methanol (50 mL) and treated with HCL (2M aqueous solution, to pH7 or below) and purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford impure material. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (123 mg, 41%) as a yellow solid.

reactant | Trimethylaluminium | 1.50 mmol, 0.751 ml | C[Al](C)C
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 0.60 mmol, 148 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | ethyl 5-(4-propan-2-yl-1,4-diazepan-1-yl)thiophene-2-carboxylate | 0.60 mmol, 178 mg | CC(C)N1CCN(CCC1)C1=CC=C(S1)C(=O)OCC | C15H24N2O2S
reactant | methanol | 50 mL | CO | CH4O
solvent | toluene | 3.002 ml | C1(=CC=CC=C1)C | C7H8
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(4-propan-2-yl-1,4-diazepan-1-yl)thiophene-2-carboxamide | 123 mg, 41% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C=1SC(=CC1)N1CCN(CCC1)C(C)C | C26H35N5O3S
